US07750001B2
2-Difluoromethyl-4-methoxybenzimidazole (9.03 g, 45.6 mmol) was dissolved in DMF (100 ml), 60% NaH (1.82 g, 45.6 mmol) was added, and stirred for 30 minutes. The reaction mixture was added to a solution obtained by dissolving 2,4,6-trichloropyrimidine (15.7 g, 92.1 mmol) into DMF (100 ml) while cooling with ice, and stirred on an ice bath for 30 minutes and further at room temperature for 2 hours. Water was added to the reaction mixture, precipitated crystals were filtered, and washed well with hexane and ether, then air-dried to afford 2-(2-difluoromethyl-4-methoxybenzimidazol-1-yl)-4,6-dichloropyrimidine (12.3 g, yield 78%).

reactant | 2-Difluoromethyl-4-methoxybenzimidazole | 45.6 mmol, 9.03 g | FC(C=1NC2=C(N1)C=CC=C2OC)F | C9H8F2N2O
reactant | NaH | 45.6 mmol, 1.82 g | [H-].[Na+]
reactant | 2,4,6-trichloropyrimidine | 92.1 mmol, 15.7 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | Water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-(2-difluoromethyl-4-methoxybenzimidazol-1-yl)-4,6-dichloropyrimidine | 12.3 g, yield 78% | FC(C1=NC2=C(N1C1=NC(=CC(=N1)Cl)Cl)C=CC=C2OC)F | C13H8Cl2F2N4O
